US07678815B2
A solution of pyridine-2,6-dicarboxylic acid monoethyl ester (1.00 g, 5.12 mmol), triethylamine (1.04 g, 10.24 mmol), diphenylphosphoryl azide (DPPA) (1.93 g, 7.02 mmol) and tert-butanol (3.00 ml) in toluene (30.00 ml) was warmed at 100° C. for 20 h. The mixture was then cooled at room temperature, diluted with ethyl acetate and washed with saturated sodium bicarbonate and brine. The organic layer was then dried over sodium sulphate and evaporated. The residue was purified by flash chromatography to yield 6-tert-butoxycarbonylamino-pyridine-2-carboxylic acid ethyl ester (1.06 g, 78%) as a viscous orange oil, MS (ISP): m/e=267.3 (M+H+).

reactant | pyridine-2,6-dicarboxylic acid monoethyl ester | 5.12 mmol, 1.00 g | C(C)OC(=O)C1=NC(=CC=C1)C(=O)O | C9H9NO4
reactant | triethylamine | 10.24 mmol, 1.04 g | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 7.02 mmol, 1.93 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butanol | 3.00 ml | C(C)(C)(C)O | C4H10O
solvent | toluene | 30.00 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-tert-butoxycarbonylamino-pyridine-2-carboxylic acid ethyl ester | 1.06 g, 78% | C(C)OC(=O)C1=NC(=CC=C1)NC(=O)OC(C)(C)C | C13H18N2O4
